US08461328B2
The generated mixture of N-benzyl-N-(2-ethoxycarbonyl-ethyl)-malonamic acid ethyl ester and N-benzyl-N-(2-ethoxycarbonyl-ethyl)-malonamic acid methyl ester was treated with sodium methoxide (2.97 mL, 13.0 mmol, 25% solution) in toluene at reflux for 18 hours. The cooled reaction mixture was acidified with 10% sulfuric acid and concentrated under vacuum. The resulting residue was dissolved in DCM and washed with water and brine, then dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by column chromatography on silica gel (gradient: 0 to 2% methanol in DCM) to afford 2.09 g (68%) of 1-benzyl-2,4-dioxo-piperidine-3-carboxylic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ: 7.29 (m, 5H), 4.70 (s, 1H), 4.64 (s, 2H), 3.93 (s, 3H), 3.34 (t, 2H), 2.59 (t, 2H).

reactant | N-benzyl-N-(2-ethoxycarbonyl-ethyl)-malonamic acid ethyl ester | C(C)OC(CC(=O)N(CCC(=O)OCC)CC1=CC=CC=C1)=O | C17H23NO5
reactant | N-benzyl-N-(2-ethoxycarbonyl-ethyl)-malonamic acid methyl ester | COC(CC(=O)N(CCC(=O)OCC)CC1=CC=CC=C1)=O | C16H21NO5
reactant | sodium methoxide | 13.0 mmol, 2.97 mL | C[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-2,4-dioxo-piperidine-3-carboxylic acid methyl ester | 2.09 g, 68% | COC(=O)C1C(N(CCC1=O)CC1=CC=CC=C1)=O | C14H15NO4
